US07691882B2
4-Phenylsulfanylmethyl-benzaldehyde
To a chloroform (10 mL) solution of (4-phenylsulfanylmethyl-phenyl)-methanol (1 g, 4.34 mmol) described in Manufacturing Example 206-1-2 was added manganese dioxide (3.77 g, 43.4 mmol), which was stirred for 15 hours at room temperature. The manganese dioxide was removed with a Celite bed, and the filtrate was concentrated under a reduced pressure to obtain the title compound (990 mg). The title compound was used in the following reaction without any further purification.

reactant | (4-phenylsulfanylmethyl-phenyl)-methanol | 4.34 mmol, 1 g | C1(=CC=CC=C1)SCC1=CC=C(C=C1)CO | C14H14OS
catalyst | manganese dioxide | 43.4 mmol, 3.77 g | [O-2].[O-2].[Mn+4]
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Phenylsulfanylmethyl-benzaldehyde | 990 mg | C1(=CC=CC=C1)SCC1=CC=C(C=O)C=C1 | C14H12OS
